US06232310B1
a) (2-Amino-4-trifluoromethylphenylsulfanyl)acetonitrile
Sodium hydride (2.93 g, 60% dispersion in mineral oil) was added at 5-10° C. under nitrogen in small portions to a stirred and cooled solution of 2-amino-4-trifluoromethyl-benzenethiol (8.00 g) dissolved in dry dimethylformamide (125 ml). After stirring for 45 min iodoacetonitrile (2.65 ml) was added. Stirring was continued at ˜0° C. for 15 min and then at room temperature for 1 h. The mixture was concentrated in vacuo at 55° C. and the oily residue was extracted with petroleum ether (3×50 ml) in order to remove the mineral oil. The residue was partitioned between water (50 ml) and ethyl acetate (100 ml). The organic phase was washed with water (2×50 ml) and then with brine (30 ml), dried over sodium sulfate, filtered and concentrated in vacuo to give a yellow oil. The crude product was purified by flash chromatography on silica gel eluted with ethyl acetate-heptane 3:7 giving the title compound as a yellow oil. Yield 6.1 g (75%); 1H-NMR (DMSO-d6) δ (ppm): 7.54 (d, J=8.3 Hz, 1H), 7.09 (d, J=1.8 Hz, 1H), 6.86 (dd, 1H), 5.97 (br, 2H), 4.02 (s, 2H); 13C-NMR (DMSO-d6) δ (ppm): 150.0, 135.7, 130.8 (q, J=31 Hz), 124.2 (q, J=272 Hz), 117.7, 117.1, 112.1 (q, J=3.8 Hz), 110.6 (q, J=3.9 Hz), 18.1.

reactant | Sodium hydride | 2.93 g | [H-].[Na+]
reactant | 2-amino-4-trifluoromethyl-benzenethiol | 8.00 g | NC1=C(C=CC(=C1)C(F)(F)F)S | C7H6F3NS
reactant | iodoacetonitrile | 2.65 ml | ICC#N | C2H2IN
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | (2-Amino-4-trifluoromethylphenylsulfanyl)acetonitrile | NC1=C(C=CC(=C1)C(F)(F)F)SCC#N | C9H7F3N2S
